US04017620
A mixture of 4.44 g. of ethyl [3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]azochloroacetylaminoacetate, 1.90 g. of p-toluenesulfonic acid (monohydrate) and 80 ml. of benzene is refluxed for 40 minutes, then washed successively with an aqueous solution of sodium hydrogen carbonate and water, and dried over sodium sulfate. Thereafter, the solvent is evaporated to give ethyl 1-[3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate as crystals. Recrystallization from ethanol yields pale yellow prisms melting at 114° to 115° C.

reactant | ethyl [3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]azochloroacetylaminoacetate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N=NC(C(=O)OCC)NC(CCl)=O)C=CC=C1 | C19H19Cl2N3O4S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl 1-[3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2N=C(N=C2CCl)C(=O)OCC)C=CC=C1 | C19H17Cl2N3O3S
